US07834003B2
3-[{3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-[(trifluoromethyl)sulfonyl]-1H-pyrazol-5-yl}(methyl)amino]propane-1,2-diyl diacetate
To a mixture of 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[(2,3-dihydroxypropyl)(methyl)amino]-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile (0.20 g, 0.4 mmol) in THF (4 mL) acetanhydride (75 mg, 0.7 mmol) and DMAP (14 mg, 0.1 mmol) was added. The mixture was heated to reflux for 5 h. Extractive workup (heptane-ethyl acetate, water) gave the title product (Compound 02-06, 0.20 g) as an oil; 1H-NMR: 1.98 and 2.08 (COCH3), 3.05 (NMe), 3.05 and 3.15 (NCH2), 3.88 and 4.16 (CH2O), 5.11 (CHO), 7.85 (ArH) ppm; 19F-NMR: −64.2 (PhCF3); −79.5 ppm (SO2CF3).

reactant | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[(2,3-dihydroxypropyl)(methyl)amino]-4-[(trifluoromethyl)sulfonyl]-1H-pyrazole-3-carbonitrile | 0.4 mmol, 0.20 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N(C)CC(CO)O)S(=O)(=O)C(F)(F)F)C#N | C16H12Cl2F6N4O4S
reactant | THF | 0.7 mmol, 4 mL, 75 mg | C1CCOC1 | C4H8O
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
catalyst | DMAP | 0.1 mmol, 14 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 3-[{3-cyano-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-[(trifluoromethyl)sulfonyl]-1H-pyrazol-5-yl}(methyl)amino]propane-1,2-diyl diacetate | 0.20 g | C(C)(=O)OCC(CN(C)C1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)(=O)C(F)(F)F)OC(C)=O | C20H16Cl2F6N4O6S
